US07208513B2
SYNTHESIS OF 4-{[3-(4-FLUOROPHENYL)-1H-INDAZOL-5-YL]CARBONYLAMINO}BENZOIC ACID
To a solution of methyl 4-{[3-(4-fluorophenyl)-1H-indazol-5-yl]carbonylamino}benzoate (112 mg, 0.29 mmol) in methanol (20 mL) and water (20 mL) was added sodium hydroxide (25 mg, 0.64 mmol). The solution was stirred at room temperature for 2 hours when it was acidified and the methanol removed under vacuo. The resulting solid was filtered and dried to recover the product (55 mg, 51%). 1H NMR (DMSO-d6) δ 13.6 (s, 1H), 12.8 (br s, 1H), 10.6 (s, 1H), 8.69 (s, 1H), 8.12 (dd, 2H), 8.0 (d, 1H), 7.94 (s, 4H), 7.70 (d, 1H), 7.41 (t, 2H); ES-MS (m/z) 376 [M+1]+.

reactant | methyl 4-{[3-(4-fluorophenyl)-1H-indazol-5-yl]carbonylamino}benzoate | 0.29 mmol, 112 mg | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)OC)C=C1 | C22H16FN3O3
reactant | sodium hydroxide | 0.64 mmol, 25 mg | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 4-{[3-(4-FLUOROPHENYL)-1H-INDAZOL-5-YL]CARBONYLAMINO}BENZOIC ACID | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C21H14FN3O3
